US05130315
E-1-Amino-4-[4-(2-methoxyphenyl)-1-piperazinyl]-2-butene
A solution of 1-amino-4-[4-(2-methoxyphenyl)-1-piperazinyl]-2-butyne (13.4 g) in tetrahydrofuran (150 ml) was added dropwise over 45 mins to a suspension of lithium aluminum hydride (3.91 g) in tetrahydrofuran (500 ml), while the reaction temperature was maintained below 5° C. The reaction mixture was allowed to warm to room temperature and was stirred at room temperature for 20 hrs. Water (3.9 ml), 15% aqueous sodium hydroxide (3.9 ml) and water (12 ml) were added sequentially, while the reaction temperature was kept below 30° C. The precipitate was filtered through a bed of celite, washed three times with diethyl ether (100 ml), filtered, and the filtrate was concentrated. Recrystallization of the residue from hexane gave 7.31 g (54%) of product, mp 63°-67° C.

reactant | 1-amino-4-[4-(2-methoxyphenyl)-1-piperazinyl]-2-butyne | 13.4 g | NCC#CCN1CCN(CC1)C1=C(C=CC=C1)OC | C15H21N3O
reactant | lithium aluminum hydride | 3.91 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 3.9 ml | O | H2O
reactant | sodium hydroxide | 3.9 ml | [OH-].[Na+]
reactant | water | 12 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | E-1-Amino-4-[4-(2-methoxyphenyl)-1-piperazinyl]-2-butene | 7.31 g, 54% | NC\C=C\CN1CCN(CC1)C1=C(C=CC=C1)OC | C15H23N3O
